US05753664
3,5-Dimethyl-2-[4-[4-[4-(4-formylpiperazinylcarbonyl)benzyloxy]benzoyl]benzylthio]-4(3H)-quinazolinone
A solution of 2-[4-(4-hydroxybenzoyl)benzylthio]-3,5-dimethyl-4(3H)-quinazolinone (402 mg), 1-(4-chloromethylbenzoyl)-4-formylpiperazine (354 mg) and potassium carbonate (261 mg) in DMF (5 ml) was stirred at room temperature for 24 hours. This reaction mixture was concentrated and the residue was dissolved in ethyl acetate. The solution was washed with water, dried, and concentrated. The residue was purified by silica gel column chromatography (ethyl acetate) to provide the title compound as colorless solid (310 mg).

reactant | 2-[4-(4-hydroxybenzoyl)benzylthio]-3,5-dimethyl-4(3H)-quinazolinone | 402 mg | OC1=CC=C(C(=O)C2=CC=C(CSC3=NC4=CC=CC(=C4C(N3C)=O)C)C=C2)C=C1 | C24H20N2O3S
reactant | 1-(4-chloromethylbenzoyl)-4-formylpiperazine | 354 mg | ClCC1=CC=C(C(=O)N2CCN(CC2)C=O)C=C1 | C13H15ClN2O2
reactant | potassium carbonate | 261 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 3,5-Dimethyl-2-[4-[4-[4-(4-formylpiperazinylcarbonyl)benzyloxy]benzoyl]benzylthio]-4(3H)-quinazolinone | 310 mg | CN1C(=NC2=CC=CC(=C2C1=O)C)SCC1=CC=C(C=C1)C(C1=CC=C(C=C1)OCC1=CC=C(C=C1)C(=O)N1CCN(CC1)C=O)=O | C37H34N4O5S
